US04278748
5-Nitrobenztriazole (10 g) was shaken with Raney nickel (3 spoons) and ethanol (200 ml) under hydrogen at atmospheric pressure until the uptake of hydrogen ceased. The Raney nickel was removed by filtration through Keiselguhr, and the dark ethanolic solution was evaporated to dryness. Crystallization from aqueous ethanol afforded 5-aminobenzotriazole (6 g, 75 percent).

reactant | 5-Nitrobenztriazole | 10 g | [N+](=O)([O-])C1=CC2=C(NN=N2)C=C1 | C6H4N4O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-aminobenzotriazole | 6 g, 75 percent | NC1=CC2=C(NN=N2)C=C1 | C6H6N4
